US07138425B2
b) 2-(3-Amino-4-ethoxyphenyl)-5-phenylbenzoxazole
Prepared by the method of Example 15e), from palladium (10 mol %) on carbon (10 mg, 0.1 mmol) and 2-(3-nitro-4-ethoxyphenyl)-5-phenylbenzoxazole (100 mg, 0.3 mmol) in dioxane (1 ml) which gave the crude subtitle compound (51 mg, 56%) as a white solid which was sufficiently pure (by TLC and 1H NMR spectroscopy) to be used in the next step, RF(2:1 Petrol-EtOAc) 0.50; 1H NMR (CDCl3) δ 7.92(1H, d, J=1.0, Ar), 7.68–7.60(4H, m, Ar), 7.57–7.51(2H, m, Ar), 7.47(2H, brt, J=7.0 Hz, Ar), 7.36(1H, tt, J=1.0, 6.5 Hz, Ar), 6.89(1H, d, J=8.5 Hz, Ar), 4.16(2H, q, J=7.0 Hz, CH2), 3.98(2H, brs, NH2), 1.49(1H, t, J=2.5 Hz, CH3).

reactant | 2-(3-nitro-4-ethoxyphenyl)-5-phenylbenzoxazole | 0.3 mmol, 100 mg | [N+](=O)([O-])C=1C=C(C=CC1OCC)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C21H16N2O4
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
catalyst | palladium | [Pd] | Pd
product | 2-(3-Amino-4-ethoxyphenyl)-5-phenylbenzoxazole | 51 mg, 56% | NC=1C=C(C=CC1OCC)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C21H18N2O2
